US05268386
Ethyl 2-{(6-chloro-3,4-dihydro-4-oxospiro [2H-1-benzopyran-2,1'-cyclohexan]-7-yl)oxy}acetate
Ethyl 2-{(3,4-dihydro-4-oxospiro[2H-1-benzopyran-2,1'-cyclohexan]7-yl)oxy}acetate prepared in Preparation 28) (0.72 g, 2.26 mmol) is dissolved in dry dichloromethane (7.2 ml). To the solution is added dropwise 1M sulfuryl chloride solution in dichloromethane (2.3 ml, 2.3 mmol) at -40° C. with stirring. After 2 hours stirring at -40° to -10° C., the solvent is removed by distillation. The residue is dissolved in dichloromethane, and the solution is washed with water, dried, and concentrated. The residue is applied to a Lober column and eluted with a mixture of ethyl acetate and hexane (1:2). The resulting crude product is recrystallized from a mixture of diethyl ether and hexane to yield the title compound (0.6 g, yield 75%, m.p.=116°-117° C.).

reactant | Ethyl 2-{(3,4-dihydro-4-oxospiro[2H-1-benzopyran-2,1'-cyclohexan]7-yl)oxy}acetate | O=C1CC2(CCCCC2)OC2=C1C=CC(=C2)OCC(=O)OCC | C18H22O5
reactant | sulfuryl chloride | 1M | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | dichloromethane | 7.2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2.3 mmol, 2.3 ml | ClCCl | CH2Cl2
product | Ethyl 2-{(6-chloro-3,4-dihydro-4-oxospiro [2H-1-benzopyran-2,1'-cyclohexan]-7-yl)oxy}acetate | 0.6 g, yield 75% | ClC=1C(=CC2=C(C(CC3(CCCCC3)O2)=O)C1)OCC(=O)OCC | C18H21ClO5
